US06953787B2
N-Trifluoroacetyl-8-iodo-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (1.50 g, 5.22 mmol) in methanol (70 mL) was treated with CaCO3 (1.06 g, 10.44 mmol) followed by a solution of ICl (1.70 g, 10.44 mmol) in methanol (10 mL), and stirred overnight at 20 C. The product mixture was filtered, concentrated, dissolved in EtOAc (200 mL), extracted twice with 5% aqueous sodium bisulfite (100 mL), once with brine (100 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 1.54 g of a white solid. 1H NMR (400 MHz, CDCl3, mixture of rotamers) d 7.55 (m, 1 H), 6.57 (m, 1 H), 3.86 (s, 3 H), 3.80 (m, 1 H), 3.60−3.30 (m, 2 H), 3.20−2.80 (m, 4 H), 1.30 (m, 3 H). MS calculated for C14H15F3INO2+H: 414, observed: 414.

reactant | N-trifluoroacetyl-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 5.22 mmol, 1.50 g | FC(C(=O)N1CCC2=C(C(C1)C)C=CC(=C2)OC)(F)F | C14H16F3NO2
reactant | CaCO3 | 10.44 mmol, 1.06 g | C(=O)([O-])[O-].[Ca+2]
reactant | ICl | 10.44 mmol, 1.70 g | ICl | ClI
solvent | methanol | 70 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | N-Trifluoroacetyl-8-iodo-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.54 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OC)I)(F)F | C14H15F3INO2
